US08119633B2
2-(1-(2,4-Dichlorophenylsulfonyl)-3-oxopiperazin-2-yl)acetic acid S11
Lithium hydroxide (0.92 mg, 21.9 mmol) was added to a cooled solution of ethyl 2-(1-(2,4-dichlorophenylsulfonyl)-3-oxopiperazin-2-yl)acetate (2.7 g, 7.3 mmol) in methanol (25 ml) and water (6 ml), and stirring was carried out for 16 h at room temperature (TLC monitoring). The solvent was removed using a rotary evaporator and the residue was taken up in water. The aqueous phase was washed with diethyl ether and acidified with HCl, and the product was extracted with ethyl acetate. The organic phase was then washed with saturated NaCl solution. The organic phase was dried over sodium sulfate and concentrated to dryness.

reactant | Lithium hydroxide | 21.9 mmol, 0.92 mg | [OH-].[Li+]
reactant | ethyl 2-(1-(2,4-dichlorophenylsulfonyl)-3-oxopiperazin-2-yl)acetate | 7.3 mmol, 2.7 g | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)N1C(C(NCC1)=O)CC(=O)OCC | C14H16Cl2N2O5S
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
product | 2-(1-(2,4-Dichlorophenylsulfonyl)-3-oxopiperazin-2-yl)acetic acid | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)N1C(C(NCC1)=O)CC(=O)O | C12H12Cl2N2O5S
